US07074817B2
Ethyl {1-benzyl-5-[3-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetate
Ethyl {1-benzyl-5-[3-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetate was prepared from 1-benzyl-5-[3-(trifluoromethoxy)phenyl]-1H-indole (1.06 g, 2.89 mmol), oxalyl chloride (1.04 mL, 13.0 mmol), and ethanol (1.5 mL), following the procedure described in Step 3 of Example 1. Purification by flash chromatography using 5-10% ethyl acetate in hexane as an eluant yielded the title compound as a light brown gum (1.14 g, 84%). Mass spectrum (+ESI, [M+H]+) m/z 468; 1HNMR (500 MHz, DMSO-d6): δ 8.75 (s, 1H), 8.45 (d, 1H, J=1.4 Hz), 7.7 (m, 2H), 7.6-7.65 (m, 3H), 7.25-7.4 (m, 6H), 5.65 (s, 2H), 4.35 (q, 2H, J=7.1 Hz), and 1.35 ppm (t, 3H, J=7.2 Hz).

reactant | 1-benzyl-5-[3-(trifluoromethoxy)phenyl]-1H-indole | 2.89 mmol, 1.06 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)C1=CC(=CC=C1)OC(F)(F)F | C22H16F3NO
reactant | oxalyl chloride | 13.0 mmol, 1.04 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 1.5 mL | C(C)O | C2H6O
product | Ethyl {1-benzyl-5-[3-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetate | 1.14 g, 84% | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC(=CC=C1)OC(F)(F)F)C(C(=O)OCC)=O | C26H20F3NO4
